US05917037
As is known, a nitro group activates halogen substituents in both the ortho- and the para-positions. For example, if 2-chloronitrobenzene is reacted with aniline at from 175 to 205° C., 2-nitrodiphenylamine is obtained in quantitative yield. By contrast, 4-chloronitrobenzene does not react at all with aniline at from 175 to 205° C.(Houben-Weyl, Methoden der Organischen Chemie [Methods of Organic Chemistry], IVth Edition, Volume XI/1, pages 63 and 64). This behavior shows that the nitro group activates the chlorine in the ortho- position to a very great extent, while its activating effect on the chlorine in the para-position is insufficient to permit the substitution reaction.

reactant | 2-chloronitrobenzene | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 2-nitrodiphenylamine | quantitative yield | C1=CC=C(C=C1)NC2=CC=CC=C2[N+](=O)[O-] | C12H10N2O2
